US08420678B2
Ethyl 2-(5-(4-Decanamidophenylsulfonamido)-1,3,4-thiadiazol-2-yl)acetate (199E).
To a solution of the 4-decanamidobenzenesulfonyl chloride (608 mg, 1.76 mmol) in pyridine (8 mL) was added ethyl 2-(5-amino-1,3,4-thiadiazol-2-yl)acetate (300 mg, 1.60 mmol). The reaction mixture was stirred at room temperature for 4.5 h, than 2 M HCl was added to quench the reaction. The mixture was extracted with ethyl acetate (3×40 mL). The organic extracts were washed with water (30 mL), brine (30 mL), dried over Na2SO4, filtered, and concentrated. The residue was purified by chromatography over silica gel (70-230 mesh) eluted with CH2Cl2:methanol 19:1 to give the product as a solid, mp 89-90° C., in 63% yield (500 mg, 1.01 mmol); 1H NMR (300 MHz, CDCl3) δ 0.87 (t, 3H, J=6.9 Hz), 1.25-1.34 (m, 15H), 1.65-1.76 (m, 2H), 2.39 (t, 2H, J=7.5 Hz), 3.87 (s, 2H), 4.24 (q, 2H, J=7.2 Hz), 7.58 (d, 2H, J=9.0 Hz), 7.74 (d, 2H, J=8.7 Hz); 13C NMR (75 MHz, DMSO-d6) δ 14.0, 14.0, 22.0, 25.5, 29.0, 29.0, 29.2, 31.3, 36.4, 37.9, 60.1, 118.9, 127.0, 139.4, 142.3, 154.0, 168.9, 169.9, 172.3; MS (LCQ, ESI+) Calcd for C22H33N4O5S2 497.2, found 497.1 (M+H)+; HRMS (ESI+, m/z) Calcd for C22H33N4O5S2 497.1875, found 497.1873 (M+H)+.

reactant | 4-decanamidobenzenesulfonyl chloride | 1.76 mmol, 608 mg | C(CCCCCCCCC)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C16H24ClNO3S
reactant | ethyl 2-(5-amino-1,3,4-thiadiazol-2-yl)acetate | 1.60 mmol, 300 mg | NC1=NN=C(S1)CC(=O)OCC | C6H9N3O2S
reactant | HCl | 2 M | Cl | ClH
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 2-(5-(4-Decanamidophenylsulfonamido)-1,3,4-thiadiazol-2-yl)acetate | 63% yield | C(CCCCCCCCC)(=O)NC1=CC=C(C=C1)S(=O)(=O)NC1=NN=C(S1)CC(=O)OCC | C22H32N4O5S2
